US07473784B2
To a solution of 2-(ethylsulfonyl)-6-(3-(2-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)pyridine-3-amine (1.04 g, 2.89 mmol, 1.0 eq.) in THF under nitrogen at 0° C. was added benzoyl isothiocyanate (0.47 mL, 3.50 mmol, 1.2 eq.). The cold bath was removed, and the reaction mixture was stirred to room temperature for 20 min. It was then heated to 70° C. for 6 h. After cooling to room temperature, it was diluted with EtOAc and water. The layers were separated, and the organi layer was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. Trituration with EtOAc afforded N-(5-(3-(2-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)thiazolo[5,4-b]pyridine-2-yl)benzamide as a light tan solid (1.05 g, 85% yield).

reactant | 2-(ethylsulfonyl)-6-(3-(2-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)pyridine-3-amine | 2.89 mmol, 1.04 g, 1.0 eq. | C(C)S(=O)(=O)C1=NC(=CC=C1N)C=1C(=NN(C1)C)C1=C(C=CC=C1)F | C17H17FN4O2S
reactant | benzoyl isothiocyanate | 3.50 mmol, 0.47 mL, 1.2 eq. | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | N-(5-(3-(2-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)thiazolo[5,4-b]pyridine-2-yl)benzamide | 1.05 g, 85% yield | FC1=C(C=CC=C1)C1=NN(C=C1C1=CC=C2C(=N1)SC(=N2)NC(C2=CC=CC=C2)=O)C | C23H16FN5OS
